US07205326B2
To a suspension of 3-(4-trifluoromethyl-phenyl)-acrylamide (5.0 g, 23.2 mmol) and NaHCO3 (7.80 g, 92.9 mmol) in THF (90 ml) 3-bromo-2-oxo-propionic acid ethyl ester (5.53 g, 25.6 mmol) is added under an argon atmosphere. The mixture is heated to reflux for 15 h when another portion of 3-bromo-2-oxo-propionic acid ethyl ester (5.53 g, 25.6 mmol) is added and stirring continued for 5 h. After cooling to r.t. the mixture is filtered, concentrated in vacuo and the resulting residue suspended in THF (20 ml). At 0° C. trifluoroacetic acid anhydride (16.3 g, 77.9 mmol) is added and the mixture stirred at room temperature for 16 h. The mixture is neutralized with sat. NaHCO3, the aqueous layer extracted with ethyl acetate (2×200 ml) and the combined organic phases dried over Na2SO4 and concentrated in vacuo. The crude product is purified by flash column chromatography (ethyl acetate/heptane 4:1) yielding 2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazole-4-carboxylic acid ethyl ester as a colorless solid. Yield 5.84 g (81%)

reactant | 3-(4-trifluoromethyl-phenyl)-acrylamide | 23.2 mmol, 5.0 g | FC(C1=CC=C(C=C1)C=CC(=O)N)(F)F | C10H8F3NO
reactant | NaHCO3 | 92.9 mmol, 7.80 g | C(=O)(O)[O-].[Na+]
reactant | THF | 25.6 mmol, 90 ml, 5.53 g | C1CCOC1 | C4H8O
reactant | 3-bromo-2-oxo-propionic acid ethyl ester | 25.6 mmol, 5.53 g | C(C)OC(C(CBr)=O)=O | C5H7BrO3
reactant | trifluoroacetic acid anhydride | 77.9 mmol, 16.3 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(OC1)C=CC1=CC=C(C=C1)C(F)(F)F | C15H12F3NO3
